US08563575B2
2-Chloro-1-methyl-1H-benzimidazole (500 mg) was added to a solution of 1-ethyl-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (789 mg) and NaH (132 mg) in DMF (10 ml) at room temperature. The mixture was heated at 150° C. for 1 h under microwave irradiation. The reaction mixture was diluted with MeOH and concentrated in vacuo. The residue was purified by column chromatography (NH silica gel, eluted with 0%-50% EtOAc in hexane) to give 1-ethyl-3-{4-[(1-methyl-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (950 mg) as white crystals.

reactant | 2-Chloro-1-methyl-1H-benzimidazole | 500 mg | ClC1=NC2=C(N1C)C=CC=C2 | C8H7ClN2
reactant | 1-ethyl-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 789 mg | C(C)N1C(N(C2=NC=CC=C21)C2=CC=C(C=C2)O)=O | C14H13N3O2
reactant | NaH | 132 mg | [H-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 1-ethyl-3-{4-[(1-methyl-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 950 mg | C(C)N1C(N(C2=NC=CC=C21)C2=CC=C(C=C2)OC2=NC1=C(N2C)C=CC=C1)=O | C22H19N5O2
